US06440634B1
Synthesis of tris(4-methylphenyl)sulfonium chloride
The end product was synthesized as in Synthesis Example 2 except that bis(4-methylphenyl)sulfoxide was used instead of the phenyl sulfoxide and 4-chlorotoluene was used instead of the chlorobenzene.

reactant | bis(4-methylphenyl)sulfoxide | CC1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)C | C14H14OS
reactant | 4-chlorotoluene | ClC1=CC=C(C=C1)C | C7H7Cl
product | tris(4-methylphenyl)sulfonium chloride | [Cl-].CC1=CC=C(C=C1)[S+](C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | InChI=1S/C21H21S.ClH/c1-16-4-10-19(11-5-16)22(20-12-6-17(2)7-13-20)21-14-8-18(3)9-15-21;/h4-15H,1-3H3;1H/q+1;/p-1
